US04180394
A solution of ethanethiol (2.13 ml, 0.0285 mole) and triethylamine (3.97 ml, 0.0285 mole) in 50 ml. of ether was added to a solution of ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycine (9.9 g, 0.03 mole) in 150 ml. of ether at 0° C. The resulting mixture was stirred for three hours, then filtered and the cooled (0° C.) filtrate was treated with a solution of isopropylamine (4.85 ml, 0.057 mole) in 50 ml. of ether. After stirring overnight, the reaction mixture was filtered and washed with 1.5% hydrochloric acid, 1.5% ammonium hydroxide and saturated aqueous sodium chloride. The resulting solution was concentrated in vacuo to afford an oil which was recrystallized from ethyl acetate-cyclohexane (1:5) to give ethyl N-trifluoroacetyl-N-(isopropylamino(ethylthio)phosphonomethyl)glycinate as a white solid, m.p. 85°-87° C.

reactant | ethanethiol | 0.0285 mole, 2.13 ml | C(C)S | C2H6S
reactant | triethylamine | 0.0285 mole, 3.97 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycine | 0.03 mole, 9.9 g | C(C)C(N(CP(=O)(OCl)OCl)C(C(F)(F)F)=O)C(=O)O | C7H9Cl2F3NO6P
reactant | isopropylamine | 0.057 mole, 4.85 ml | C(C)(C)N | C3H9N
solvent | ether | CCOCC | C4H10O
product | ethyl N-trifluoroacetyl-N-(isopropylamino(ethylthio)phosphonomethyl)glycinate | FC(C(=O)N(CC(=O)OCC)C(P(=O)(OSCC)O)NC(C)C)(F)F | C12H22F3N2O6PS
